US04943574
To a stirred mixture of 4.5 parts of 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol and 94 parts of N,N-dimethylformamide was added portionwise 1 part of a sodium hydride dispersion 50%. Upon complete addition, stirring was continued till hydrogen evolution had ceased. 1.3 Parts of iodomethane were added at once and stirring was continued at room temperature. The N,N-dimethylformamide formamide layer was evaporated and the residue was taken up in water and a mixture of trichloromethane, methanol and methanol, saturated with ammonia (90:5:5 by volume). The product was extracted with a mixture of trichloromethane, methanol and methanol, saturated with ammonia (90:5:5 by volume). The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel first using trichloromethane and then a mixture of trichloromethane and methanol (90:10 by volume) as eluents. The pure fractions were collected and the eluent was evaporated. The residue was stirred in 2,2'-oxybispropane. The product was filtered off and dried in vacuo at 50° C., yielding 3.1 parts (64.3%) of 5-(1H-imidazol-1-ylmethyl)-1-methoxy-1H-benzotriazole; mp. 94.3° C. (compound 221).

reactant | 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol | N1(C=NC=C1)CC1=CC2=C(N(N=N2)O)C=C1 | C10H9N5O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | IC | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(1H-imidazol-1-ylmethyl)-1-methoxy-1H-benzotriazole | 64.3% | N1(C=NC=C1)CC1=CC2=C(N(N=N2)OC)C=C1 | C11H11N5O
